US06274620B1
To a mixture of 3-tert-Butoxycarbonylamino-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionic acid (200 mg, 0.51 mmol), [2-(4-Amino-phenyl)-ethyl]-carbamic acid tert-butyl ester (130 mg, 0.55 mmol), HOBT (82 mg, 0.612 mmol) in DMF (25 mL), was added 1-(3-dimethylamino) propyl)-3-ethylcarbodiimide hydrochloride (118 mg, 0.612 mmol). The reaction was stirred overnight at room temperature. Insoluble particles were removed by filtration and the solvent was evaporated. Purification of the residue on silica gel (1:4 hexane:EtOAc) gave 144 mg (42%) of pure [2-[4-(2-tert-Butoxycarbonylamino-ethyl)-phenylcarbamoyl]-2-(2,4,6-trimethyl-benzenesulfonylamino)-ethyl]-carbamic acid benzyl ester (Y-2).

reactant | 3-tert-Butoxycarbonylamino-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionic acid | 0.51 mmol, 200 mg | C(C)(C)(C)OC(=O)NCC(C(=O)O)NS(=O)(=O)C1=C(C=C(C=C1C)C)C | C17H26N2O6S
reactant | [2-(4-Amino-phenyl)-ethyl]-carbamic acid tert-butyl ester | 0.55 mmol, 130 mg | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)N)=O | C13H20N2O2
reactant | HOBT | 0.612 mmol, 82 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-ethylcarbodiimide hydrochloride | 0.612 mmol, 118 mg | Cl.C(C)N=C=N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | [2-[4-(2-tert-Butoxycarbonylamino-ethyl)-phenylcarbamoyl]-2-(2,4,6-trimethyl-benzenesulfonylamino)-ethyl]-carbamic acid benzyl ester | 144 mg, 42% | C(C1=CC=CC=C1)OC(NCC(NS(=O)(=O)C1=C(C=C(C=C1C)C)C)C(NC1=CC=C(C=C1)CCNC(=O)OC(C)(C)C)=O)=O | C33H42N4O7S
